US06465664B1
3-Benzyloxybutyl-cyclopent-2-enone
A solution of a Grignard reagent was prepared following the procedure described in the synthesis of 3-(5-hexenyl)cyclopent-2-enone, using Mg turnings (302 mg, 12 mmol), THF (11 mL), and benzyl 4-bromobutylether (2.75 g, 11.3 mmol). The general procedure for the preparation of substrates using 3-ethoxycyclopentenone (0.67 mL, 5.65 mmol), gave, after 12 h and flash chromatography (3:1, then 2:1 hexanes:ethyl acetate), the title compound as a white solid (0.662 g, 48%). m.p. 46-47° C. 1H NMR (300 MHz, CDCl3): δ7.34-7.25 (m, 5 H), 5.94 (s, 1 H), 4.50 (s, 2 H), 3.49 (t, J=6.0 Hz, 2 H), 2.58-2.55 (m, 2 H), 2.41-2.38 (m, 3 H), 1.70-1.67 (m, 4 H). 13C NMR (75 MHz, CDCl3): δ210.2, 182.9, 138.6, 129.7, 128.6, 127.8 (2 peaks partially resolved), 73.3, 70.0, 35.6, 33.6, 31.8, 29.8, 24.2. IR (neat): 2941, 2853, 1710, 1613, 1451, 1366, 1185, 1119, 1000, 842, 749 cm−1.

reactant | 3-(5-hexenyl)cyclopent-2-enone | C(CCCC=C)C1=CC(CC1)=O | C11H16O
reactant | THF | 11 mL | C1CCOC1 | C4H8O
reactant | benzyl 4-bromobutylether | 11.3 mmol, 2.75 g | C(C1=CC=CC=C1)C(CCCOCCCC(CC1=CC=CC=C1)Br)Br | C22H28Br2O
reactant | 3-ethoxycyclopentenone | 5.65 mmol, 0.67 mL | C(C)OC1=CC(CC1)=O | C7H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Benzyloxybutyl-cyclopent-2-enone | 0.662 g, 48% | C(C1=CC=CC=C1)OC(CCC=1C(CCC1)=O)C | C16H20O2
